US04933458
To a solution of 0.73 g of sodium hydroxide in a mixture of 2 ml of water and 50 ml of ethanol were added successively 1.5 g of 2-mercapto-3-methylquinoxaline and 1.99 g of 2-diethylaminobenzyl chloride hydrochloride. The resulting mixture was stirred at room temperature for 3 hrs., and the solvent was removed under reduced pressure. The residue was extracted with ethyl acetate. The organic layer was washed successively with 5% aqueous sodium hydroxide solution, water and saturated aqueous sodium chloride solution, and then dried over sodium sulfate. The sodium sulfate was removed by filtration, and the filtrate was placed under reduced pressure to removed the solvent. The residual oil was purified by silica gel column chromatography (hexane/acetone) to give 1.74 g of 2-(2-diethylaminobenzylthio)-3-methylquinoxaline as a yellow oil.

reactant | sodium hydroxide | 0.73 g | [OH-].[Na+]
reactant | 2-mercapto-3-methylquinoxaline | 1.5 g | SC1=NC2=CC=CC=C2N=C1C | C9H8N2S
reactant | 2-diethylaminobenzyl chloride hydrochloride | 1.99 g | Cl.C(C)N(C1=C(CCl)C=CC=C1)CC
solvent | water | 2 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-diethylaminobenzylthio)-3-methylquinoxaline | 1.74 g | C(C)N(C1=C(CSC2=NC3=CC=CC=C3N=C2C)C=CC=C1)CC | C20H23N3S
